US07220759B2
By the reaction in the same manner as in Example 2a, using 3-(pyrrolidin-3-yl)-2H-isoquinolin-1-one hydrochloride (201 mg) and 2-bromoethanol (285 μl), 3-[1-(2-hydroxyethyl)pyrrolidin-3-yl]-2H-isoquinolin-1-one (58 mg) was obtained.

reactant | 3-(pyrrolidin-3-yl)-2H-isoquinolin-1-one hydrochloride | 201 mg | Cl.N1CC(CC1)C=1NC(C2=CC=CC=C2C1)=O
reactant | 2-bromoethanol | 285 μl | BrCCO | C2H5BrO
product | 3-[1-(2-hydroxyethyl)pyrrolidin-3-yl]-2H-isoquinolin-1-one | 58 mg | OCCN1CC(CC1)C=1NC(C2=CC=CC=C2C1)=O | C15H18N2O2
